US05750702
A mixture of ethyl 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]furan-3-carboxylate (3.48 g,15.7 mmol) and ammonium acetate (2.41 g, 31.3 mmol) in N,N-dimethylformamide (25 mL) was heated at 115° C. for 6 hours. The mixture was concentrated in vacuo, ice water was added, and extracted 2X with dichloromethane. The combined organic layers were washed with saturated aqueous sodium bicarbonate then brine, dried over sodium sulfate, filtered through a small pad of Silica gel (5% methyl alcohol/dichloromethane), and the filtrate concentrated in vacuo to give ethyl 4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta[b]pyrrole-3-carboxylate (1.76 g). A solution of this ester in aqueous 5N sodium hydroxide (30 mL) and ethyl alcohol(6 mL) was heated at reflux for 1 hour, then cooled in an ice bath. The mixture was acidified with hydrochloric acid; the resulting precipitate was collected, rinsed with water followed by diethyl ether and allowed to dry to give 4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta[b]pyrrole-3-carboxylic acid (1.17 g). m.p. 225°-227°C.

reactant | ethyl 4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]furan-3-carboxylate | 15.7 mmol, 3.48 g | O=C1CCCCC=2OC=C(C21)C(=O)OCC | C12H14O4
reactant | ammonium acetate | 31.3 mmol, 2.41 g | C(C)(=O)[O-].[NH4+]
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | ethyl 4-oxo-1,4,5,6,7,8-hexahydro-cyclohepta[b]pyrrole-3-carboxylate | 1.76 g | O=C1CCCCC=2NC=C(C21)C(=O)OCC | C12H15NO3
